US05424329
1-Methyl-3-(1-methylethoxy)-5-(phenylmethoxy)-1H-indole-2-carboxylic acid
A suspension of 1,1-dimethylethyl 1-methyl-3(1-methylethoxy)-5-(phenylmethoxy)-1H-indole-2-carboxylate (5.6 g, 14 mmol) in 80 mL of 2-methoxyethanol is treated with a solution of 50% aqueous sodium hydroxide (5.0 g, 63 mmol) followed by the addition of 15 mL of water. The mixture is stirred at reflux for 3 hours, then cooled and added to 700 mL of water. The mixture is heated on a hot plate until nearly one phase and filtered hot. The warm filtrate is immediately treated with 50 mL of 4.0N HCl. After cooling to room temperature, followed by 1 hour in an ice bath, the precipitated solid is filtered and washed with 25% methanol in water to give 4.2 g (88%) of product suitable for further synthesis. A sample recrystallized from ethyl acetate-hexane has mp 136° C.-dec.

reactant | 1,1-dimethylethyl 1-methyl-3(1-methylethoxy)-5-(phenylmethoxy)-1H-indole-2-carboxylate | 14 mmol, 5.6 g | CN1C(=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)OC(C)C)C(=O)OC(C)(C)C | C24H29NO4
reactant | sodium hydroxide | 63 mmol, 5.0 g | [OH-].[Na+]
reactant | water | 15 mL | O | H2O
reactant | water | 700 mL | O | H2O
solvent | 2-methoxyethanol | 80 mL | COCCO | C3H8O2
product | 1-Methyl-3-(1-methylethoxy)-5-(phenylmethoxy)-1H-indole-2-carboxylic acid | 4.2 g, 88% | CN1C(=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)OC(C)C)C(=O)O | C20H21NO4
